US04180394
A solution of isopropanol (1.0 ml, 0.025 mole) and triethylamine (3.5 ml, 0.025 mole) in 50 ml. of tetrahydrofuran was added to a solution of β-chloroethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate (9.1 g, 0.025 mole) in 250 ml. of ether at 0° C. After three hours, the solution was filtered and the filtrate was added to a cooled (0° C.) solution of isopropylamine (4.2 ml, 0.05 mole) in 50 ml. of tetrahydrofuran. After stirring for 16 hours at 25° C., the reaction mixture was filtered and the filtrate was concentrated in vacuo. The residual oil was dissolved in methylene chloride and washed with 3% hydrochloric acid, 3% ammonium hydroxide and saturated sodium chloride solution. The solution was dried over sodium sulfate and concentrated in vacuo to yield a solid. Recrystallization from ethyl acetate-hexane (1:10) yielded β-chloroethyl N-trifluoroacetyl-N-(isopropyl(isopropylamino)phosphonomethyl)glycinate as a white solid, m.p. 87.5°-89° C.

reactant | isopropanol | 0.025 mole, 1.0 ml | C(C)(C)O | C3H8O
reactant | triethylamine | 0.025 mole, 3.5 ml | C(C)N(CC)CC | C6H15N
reactant | β-chloroethyl N-trifluoroacetyl-N-(dichlorophosphonomethyl)glycinate | 0.025 mole, 9.1 g | FC(C(=O)N(CC(=O)OCCCl)CP(=O)(OCl)OCl)(F)F | C7H8Cl3F3NO6P
reactant | isopropylamine | 0.05 mole, 4.2 ml | C(C)(C)N | C3H9N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | β-chloroethyl N-trifluoroacetyl-N-(isopropyl(isopropylamino)phosphonomethyl)glycinate | FC(C(=O)N(CC(=O)OCCCl)C(P(=O)(ONC(C)C)O)C(C)C)(F)F | C13H23ClF3N2O6P
